US04857543
2-Amino-2-(3-thienyl)acetic acid (10 g) is dissolved in 1N sodium hydroxide solution, and 1N sodium hydroxide solution and a solution of benzyloxycarbonyl chloride (13 g) in ether are simultaneously added dropwise thereto at 5° to 10° C. with vigorous stirring. The mixture is stirred at the same temperature for 3 hours. After the reaction mixture is washed, the mixture is acidified and extracted with ethyl acetate. The extract is washed, dried and concentrated to remove solvent. The residue is crystallized with a mixture of ethyl acetate and diisopropyl ether, whereby 2-benzyloxycarbonylamino-2-(3-thienyl)acetic acid (13.6 g) is obtained.

reactant | 2-Amino-2-(3-thienyl)acetic acid | 10 g | NC(C(=O)O)C1=CSC=C1 | C6H7NO2S
reactant | benzyloxycarbonyl chloride | 13 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 2-benzyloxycarbonylamino-2-(3-thienyl)acetic acid | 13.6 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1=CSC=C1 | C14H13NO4S
